US03954707
Ten grams (0.05 mole) of bis(ethylsulfonyl)methane, prepared by the procedure described in Cronyl "Sulfones. I. Methods for the Preparation of Certain Alkanes, Alkenes, Acids and Lactones with Bis-(ethylsulfonyl)-methane" in J. Am. Chem. Soc., vol. 74, page 1225 (see p. 1228), published 1952, was mixed with 7.4 grams (0.05 mole) of ethyl orthoformate and 6.4 grams (0.05 mole) of p-chloroaniline and the mixture was heated at 95°-145°C. (pot) during which time about 7 milliliters of ethanol distilled off. The reaction mixture was then further heated at 150°-160°C. for 1 hour and then cooled. The solid reaction product was then washed with cold ethanol, and recrystallized from ethanol to give 7.3 grams of 2,2-bis(ethylsulfonyl)vinyl-4-chloroaniline, melting point 173°-175°C. having the structural formula ##SPC5##

reactant | bis(ethylsulfonyl)methane | 0.05 mole, Ten grams | C(C)S(=O)(=O)CS(=O)(=O)CC | C5H12O4S2
reactant | ethyl orthoformate | 0.05 mole, 7.4 grams | C(OCC)([O-])[O-]
reactant | p-chloroaniline | 0.05 mole, 6.4 grams | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | ethanol | about 7 milliliters | C(C)O | C2H6O
product | 2,2-bis(ethylsulfonyl)vinyl-4-chloroaniline | 7.3 grams | C(C)S(=O)(=O)C(=CNC1=CC=C(C=C1)Cl)S(=O)(=O)CC | C12H16ClNO4S2
